US07732435B2
3-(4-Chlorophenyl)-2-isopropyl-8,9,10,11-tetrahydro-7H-1-oxa-7,10-diaza-cyclohepta[a]naphthalen-4-one
A mixture of 2,4,6-trimethylbenzenesulfonic acid 3-(4-chlorophenyl)-8-formyl-2-isopropyl-4-oxo-4H-chromen-7-yl ester (141 mg, 0.269 mmol) and ethylene diamine (0.6 ml) in anhydrous pyridine (3.5 ml) in a sealed 5 ml microwave tube is heated under microwave irradiation at 100° C. for 1 h. A further aliquot of ethylene diamine (0.6 ml) is added, and the mixture is heated at 140° C. for 30 min. A further aliquot of ethylene diamine (0.4 ml) is then added, and the mixture is heated at 160° C. for 50 min and finally at 150° C. for 2 h. The mixture is cooled to room temperature, and the volatiles are removed under reduced pressure. The residue is dissolved in dry methanol (4 ml), and the solution is cooled to 0° C. Sodium borohydride (15 mg, 0.4 mmol) is added, and the mixture is stirred for 18 h as it warms to room temperature. The mixture is quenched by the addition of water (30 ml) and extracted with dichloromethane (3×20 ml). The organic phases are combined, washed with saturated brine (50 ml), dried (MgSO4), filtered and evaporated under reduced pressure. The residue is purified by preparative reversed phase chromatography using 90% water/-acetonitrile to 100% acetonitrile as eluant. The pure product-containing fractions are combined and evaporated to dryness, and the residue is triturated with n-hexane containing a small amount of dichloromethane. The resulting colourless powder is recovered by filtration and dried.

reactant | 2,4,6-trimethylbenzenesulfonic acid 3-(4-chlorophenyl)-8-formyl-2-isopropyl-4-oxo-4H-chromen-7-yl ester | 0.269 mmol, 141 mg | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)C=O)C(C)C | C28H25ClO6S
reactant | ethylene diamine | 0.6 ml | C(CN)N | C2H8N2
reactant | ethylene diamine | 0.6 ml | C(CN)N | C2H8N2
reactant | ethylene diamine | 0.4 ml | C(CN)N | C2H8N2
reactant | Sodium borohydride | 0.4 mmol, 15 mg | [BH4-].[Na+]
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Chlorophenyl)-2-isopropyl-8,9,10,11-tetrahydro-7H-1-oxa-7,10-diaza-cyclohepta[a]naphthalen-4-one | ClC1=CC=C(C=C1)C=1C(C=2C=CC3=C(C2OC1C(C)C)CNCCN3)=O | C21H21ClN2O2
